US07517880B2
N-(5-tert-Butyl-2-methoxyphenyl)-N′-(2-amino-4-methylphenyl)urea:
A solution of N-(5-tert-butyl-2-methoxyphenyl)-N′-(2-nitro-4-methylphenyl)urea (prepared in a manner analogous to Method B1a; 4.0 g, 11.2 mmol) in EtOH (100 mL) was added to a slurry of 10% Pd/C (0.40 g) in EtOH (10 mL), and the resulting mixture was stirred under an atmosphere of H2 (balloon) at room temp. for 18 h. The mixture was filtered through a pad of Celite® and concentrated in vacuo to afford the desired product (3.42 g, 94%) as a powder: mp 165-166° C.; 1H-NMR (DMSO-d6) δ 1.30 (s, 9H), 2.26 (s, 3H), 3.50 (br s, 2H), 3.71 (s, 3H), 6.39 (br s, 1H), 6.62 (s, 1H), 6.73 (d, J=8.46 Hz, 1H), 6.99 (dd, J=2.21, 8.46 Hz, 1H), 7.05 (d, J=8.46 Hz, 1H), 7.29 (s, 1H), 8.22 (d, J=2.57 Hz, 1H); FAB-MS m/z 328 ((M+H)+). C3. General Method of Thiourea Formation by Reaction with a Thioisocyanate

reactant | N-(5-tert-butyl-2-methoxyphenyl)-N′-(2-nitro-4-methylphenyl)urea | C(C)(C)(C)C=1C=CC(=C(C1)NC(=O)NC1=C(C=C(C=C1)C)[N+](=O)[O-])OC | C19H23N3O4
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 0.40 g | [Pd] | Pd
product | N-(5-tert-Butyl-2-methoxyphenyl)-N′-(2-amino-4-methylphenyl)urea | 3.42 g, 94% | C(C)(C)(C)C=1C=CC(=C(C1)NC(=O)NC1=C(C=C(C=C1)C)N)OC | C19H25N3O2
